US05852016
N-(1,4-Dihydro-6,7-dichloro-2,3-dioxoquinoxaline-5-yl)-N-(methyl)-ethanesulphonamide
A mixture of N-(6,7-dichloro-2,3-dimethoxyquinoxalin-5-yl)-N-(methyl)-ethanesulphonamide (150 mg, 0.39 mmol), 2M hydrochloric acid (4 ml) and dioxane (8 ml) was heated at reflux for 16 hours, cooled, and concentrated under reduced pressure. The solid residue was suspended in water, filtered off, and washed with water and ether to give the title compound (140 mg, 99%) as a white solid, m.p. >300° C.

reactant | N-(6,7-dichloro-2,3-dimethoxyquinoxalin-5-yl)-N-(methyl)-ethanesulphonamide | 0.39 mmol, 150 mg | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)N(S(=O)(=O)CC)C | C13H15Cl2N3O4S
reactant | hydrochloric acid | 2M, 4 ml | Cl | ClH
solvent | dioxane | 8 ml | O1CCOCC1 | C4H8O2
product | N-(1,4-Dihydro-6,7-dichloro-2,3-dioxoquinoxaline-5-yl)-N-(methyl)-ethanesulphonamide | 140 mg, 99% | ClC=1C(=C2NC(C(NC2=CC1Cl)=O)=O)N(S(=O)(=O)CC)C | C11H11Cl2N3O4S
